US04113858
(K) Coupling of Phenylalanine
While maintaning the nitrogen atmosphere, the product of Step (J) above is admixed with 3 fold molar excess of carbobenzoxy-L-phenylalanine [Boc-L-phenylalanine, Peninsula, supra.] dissolved in methylene chloride. The resulting mixture is shaken and after about 10 minutes, 3 fold molar excess of N,N-dicyclohexylcarbodiimide in 15 ml of methylene chloride is added with stirring. The resulting mixture is shaken at room temperature for 4.5 to 5 hours. At the end of this period, the reaction mixture is filtered and the residue washed and dried.

reactant | carbobenzoxy-L-phenylalanine | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC1=CC=CC=C1)C(=O)O | C17H17NO4
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | Phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
